US07514567B2
(R)-3′-(4-(Pyrazin-2-yl)furan-2-yl)spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one
The title compound was prepared by a method analog to that described in Example 14 from (R)-3′-(4-bromofuran-2-yl)spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one and 2-(tri-n-butylstannyl)pyrazine. The title compound (2 mg) was obtained as a pale solid, m/z 327 (MH+).

reactant | (R)-3′-(4-bromofuran-2-yl)spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one | BrC=1C=C(OC1)N1C(O[C@@]2(C1)CN1CCC2CC1)=O | C13H15BrN2O3
reactant | 2-(tri-n-butylstannyl)pyrazine | C(CCC)[Sn](C1=NC=CN=C1)(CCCC)CCCC
product | (R)-3′-(4-(Pyrazin-2-yl)furan-2-yl)spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one | 2 mg | N1=C(C=NC=C1)C=1C=C(OC1)N1C(O[C@@]2(C1)CN1CCC2CC1)=O | C17H18N4O3
